US07247748B2
a) (S)-[3-(3-Hydroxy-butoxy)phenyl]-acetic acid methyl ester
To a stirring solution of (3-hydroxy-phenyl)-acetic acid methyl ester (0.93 g, 0.0056 mole) and toluene-4-sulfonic acid-(S)-3-hydroxy-butyl ester (1.5 g, 0.0061 mole) (from above) in anhydrous DMF (10 mL) was added Cs2CO3 (2.0 g, 0.006 mole). The reaction was heated to 100° C. and stirred for 4 hours. The mixture was cooled to RT and filtered. The filtrate was poured into H2O (50 mL) and extracted three times with EtOAc. The combined organic layers were dried over sodium sulfate, filtered, and concentrated. The crude product was subjected to column chromatography over silica gel (silica gel 60, EM Science) using 30% EtOAc:hexane as eluent to afford 0.59 g (44% yield) of the title compound as an oil: MS (ESI) 239.0 (M+H+).

reactant | (3-hydroxy-phenyl)-acetic acid methyl ester | 0.0056 mole, 0.93 g | COC(CC1=CC(=CC=C1)O)=O | C9H10O3
reactant | toluene-4-sulfonic acid-(S)-3-hydroxy-butyl ester | 0.0061 mole, 1.5 g | O[C@H](CCOS(=O)(=O)C1=CC=C(C=C1)C)C | C11H16O4S
reactant | Cs2CO3 | 0.006 mole, 2.0 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | hexane | CCCCCC | C6H14
product | (S)-[3-(3-Hydroxy-butoxy)phenyl]-acetic acid methyl ester | 0.59 g, 44% yield | COC(CC1=CC(=CC=C1)OCC[C@H](C)O)=O | C13H18O4
